US08669234B2
{3-[5-(4′-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-oxo-octahydro-indolizin-6-yl}-carbamic acid methyl ester was prepared following method 804 followed by method 805, substituting {3-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-oxo-octahydro-indolizin-6-yl}-carbamic acid tert-butyl ester for {1-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester in method 804, and substituting {1-[2-(5-{4′-[2-(6-Amino-5-oxo-octahydro-indolizin-3-yl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester for {1-[2-(5-{4′-[2-(3-amino-2-oxo-piperidin-1-ylmethyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester in method 805. C39H46N8O6 calculated 722.4 observed [M+1]+ 723.4; rt=1.62 min. 1H (DMSO-d6): δ=8.10 (m, 1H), 7.90 (m, 8H), 7.31 (m, 2H), 5.12 (m, 2H), 4.11 (m, 2H), 3.84 (m 21-1), 3.74 (m, 1H), 3.53 (s, 6H), 2.38 (m, 2H), 2.14 (m, 3H), 2.05 (m, 5H), 1.82 (m 3H), 0.81 (dd, J=8.8 Hz, J=17.6 Hz, 6H).

reactant | {1-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-ylmethyl]-2-oxo-piperidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(N(CCC1)CC=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O)=O | C40H50N8O6
reactant | {1-[2-(5-{4′-[2-(3-amino-2-oxo-piperidin-1-ylmethyl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)CN1C(C(CCC1)N)=O)=O | C35H42N8O4
product | {3-[5-(4′-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-oxo-octahydro-indolizin-6-yl}-carbamic acid methyl ester | COC(NC1C(N2C(CCC2CC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O)=O | C39H46N8O6
